US05840732
Synthesis of 5-(4-hydroxybutylthio)imidazo[1,2-c]pyrimidine
To a solution of 4.98 g (25 mmol) of 4-amino-2-(4-hydroxybutylthio)pyrimidine in 70 ml of ethanol, 30 ml of a 40% chloroacetaldehyde solution was added, followed by refluxing for 4 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/1→1/4→ethyl acetate) to yield 3.15 g (56.4%, white crystal) of the desired product.

reactant | 4-amino-2-(4-hydroxybutylthio)pyrimidine | 25 mmol, 4.98 g | NC1=NC(=NC=C1)SCCCCO | C8H13N3OS
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 5-(4-hydroxybutylthio)imidazo[1,2-c]pyrimidine | OCCCCSC1=NC=CC=2N1C=CN2 | C10H13N3OS
